US06869967B2
A 1M solution of DIBAL-H in toluene (150 ml, 150 mmol) was added dropwise, at −70° C. over 30 min, to a stirred solution of 3,3-bis-(4-bromophenyl)-acrylic acid ethyl ester (24.5 g, 59.7 mmol) in dry THF (400 ml) and stirred for 30 min. The mixture was warmed to room temperature, and stirred for 1.5 h. The mixture was poured into 1N HCl (700 ml) with vigorous stirring and the product extracted with ethyl acetate (3×200 ml). The combined organic extracts were washed with brine, dried (MgSO4), and evaporated to give the crude product as an off-white solid, which was purified by column chromatography on silica gel (15% ethyl acetate in n-heptane eluent). The purified product was diluted in boiling heptane, filtered and the filtrate cooled, giving 15.8 g (72%) 3,3-bis-(4-bromophenyl)prop-2-en-1-ol as an crystalline solid.

reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
reactant | toluene | 150 mmol, 150 ml | C1(=CC=CC=C1)C | C7H8
reactant | 3,3-bis-(4-bromophenyl)-acrylic acid ethyl ester | 59.7 mmol, 24.5 g | C(C)OC(C=C(C1=CC=C(C=C1)Br)C1=CC=C(C=C1)Br)=O | C17H14Br2O2
reactant | HCl | 1N, 700 ml | Cl | ClH
solvent | THF | 400 ml | C1CCOC1 | C4H8O
product | 3,3-bis-(4-bromophenyl)prop-2-en-1-ol | 15.8 g, 72% | BrC1=CC=C(C=C1)C(=CCO)C1=CC=C(C=C1)Br | C15H12Br2O
